US06291682B1
11. 8-Methylthiochroman-4-one-7-carboxylic acid O-ethyloxime
0.88 g (9 mmol) of ethylhydroxylamine are introduced into 20 ml of methanol. 0.62 g (4.5 mmol) of potassium carbonate are then added. 2.0 g (9 mmol) of 8-methylthiochroman-4-one-7-carboxylic acid are subsequently added. The reaction [sic] is stirred for 10 days at about 20° C. Work-up is carried out by adding water and 2N HCl. The precipitate which forms is filtered off with suction and dried.

reactant | ethylhydroxylamine | 9 mmol, 0.88 g | C(C)NO | C2H7NO
reactant | potassium carbonate | 4.5 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-methylthiochroman-4-one-7-carboxylic acid | 9 mmol, 2.0 g | CC=1C(=CC=C2C(CCSC12)=O)C(=O)O | C11H10O3S
reactant | HCl | 2N | Cl | ClH
reactant | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 8-Methylthiochroman-4-one-7-carboxylic acid O-ethyloxime | C(C)ON=C1CCSC2=C(C(=CC=C12)C(=O)O)C | C13H15NO3S
